US04794109
(38a) 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-chloroacetylthio-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester
In a manner analogous to that described in Example 7, 30 g of the silver salt of 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-mercapto-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester are reacted with 5.04 ml of chloroacetyl chloride to form the title compound.

reactant | 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-mercapto-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)C(O[SiH2]C(C)(C)C)(C)C)=O)=O | C33H40NO4PSSi
reactant | chloroacetyl chloride | 5.04 ml | ClCC(=O)Cl | C2H2Cl2O
catalyst | silver | 30 g | [Ag] | Ag
product | 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-chloroacetylthio-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SC(CCl)=O)C(O[SiH2]C(C)(C)C)(C)C)=O)=O | C35H41ClNO5PSSi
